US07417047B2
The dimethylformamide was vigorously deoxygenated with nitrogen gas before use in this reaction. To a solution of 2-cyano-4-iodopyrrole (2.30 g, 10.52 mmol) in dimethylformamide was added dichloropalladium(II) bistriphenylphosphine (185 mg), copper(I) iodide (50 mg) and finally triethylamine (3.85 mL). After stirring ten minutes, 1-bromo-3-ethynyl-benzene (2.38 g, 13.15 mmol) was added. This mixture was stirred overnight at room temperature under nitrogen atmosphere. The reaction mixture was diluted with ethyl acetate and washed with 2% aqueous lithium chloride and 5% aqueous sodium chloride. The organic phase was dried (Na2SO4), filtered and evaporated. The residue was purified by flash chromatography (silica gel, 20% ethyl acetate/hexane) to afford 4-(3-bromo-phenylethynyl)-1H-pyrrole-2-carbonitrile as a yellow solid, 2.84 g, 99% yield.

reactant | 2-cyano-4-iodopyrrole | 10.52 mmol, 2.30 g | C(#N)C=1NC=C(C1)I | C5H3IN2
reactant | triethylamine | 3.85 mL | C(C)N(CC)CC | C6H15N
reactant | 1-bromo-3-ethynyl-benzene | 13.15 mmol, 2.38 g | BrC1=CC(=CC=C1)C#C | C8H5Br
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper(I) iodide | 50 mg | [Cu]I
product | 4-(3-bromo-phenylethynyl)-1H-pyrrole-2-carbonitrile | 99% yield | BrC=1C=C(C=CC1)C#CC=1C=C(NC1)C#N | C13H7BrN2
